Vdd    (vdd! gnd!)   vsource dc=0.9
V_read (V_Read gnd!) vsource dc=0.2
V_body (Vbody gnd!)  vsource dc=-0.3
V_ref  (Vref gnd!)   vsource dc=Vref
Vpp    (Vp gnd!)     vsource dc=0.9
Vnn    (Vn gnd!)     vsource dc=-0.3
Vhh    (Vh gnd!)     vsource dc=0.0
V_RW   (RW gnd!)     vsource type=pwl wave=\[
+ 0    -0.3
+ 500p -0.3
+ 510p 0.9
+ 2000p 0.9
+ 2010p -0.3
+ 2500p -0.3
+ 2510p 0.9
+ 4000p 0.9
+ 4010p -0.3
+ 4500p -0.3
+ 4510p 0.9
+ 6000p 0.9
+ 6010p -0.3
+ 6500p -0.3
+ 6510p 0.9
+ 8000p 0.9
+ 8010p -0.3
+ 8500p -0.3
+ 8510p 0.9
+ 10000p 0.9
+ 10010p -0.3
+ 10500p -0.3
+ 10510p 0.9
+ 12000p 0.9
+ 12010p -0.3
+ 12500p -0.3
+ 12510p 0.9
+ 14000p 0.9
+ 14010p -0.3
+ 14500p -0.3
+ 14510p 0.9
+ 16000p 0.9
+ 16010p -0.3
+ 16500p -0.3
+ 16510p 0.9
+ 18000p 0.9
+ 18010p -0.3
+ 18500p -0.3
+ 18510p 0.9
+ 20000p 0.9
+ 20010p -0.3
+ 20500p -0.3
+ 20510p 0.9
+ 22000p 0.9
+ 22010p -0.3
+ 22500p -0.3
+ 22510p 0.9
+ 24000p 0.9
+ 24010p -0.3
+ 24500p -0.3
+ 24510p 0.9
+ 26000p 0.9
+ 26010p -0.3
+ 26500p -0.3
+ 26510p 0.9
+ 28000p 0.9
+ 28010p -0.3
+ 28500p -0.3
+ 28510p 0.9
+ 30000p 0.9
+ 30010p -0.3
+ 30500p -0.3
+ 30510p 0.9
+ 32000p 0.9
+ 32010p -0.3
+ 32500p -0.3
+ 32510p 0.9
+ 34000p 0.9
+ 34010p -0.3
+ 34500p -0.3
+ 34510p 0.9
+ 36000p 0.9
+ 36010p -0.3
+ 36500p -0.3
+ 36510p 0.9
+ 38000p 0.9
+ 38010p -0.3
+ 38500p -0.3
+ 38510p 0.9
+ 40000p 0.9
+ 40010p -0.3
+ 40500p -0.3
+ 40510p 0.9
+ 42000p 0.9
+ 42010p -0.3
+ 42500p -0.3
+ 42510p 0.9
+ 44000p 0.9
+ 44010p -0.3
+ 44500p -0.3
+ 44510p 0.9
+ 46000p 0.9
+ 46010p -0.3
+ 46500p -0.3
+ 46510p 0.9
+ 48000p 0.9
+ 48010p -0.3
+ 48500p -0.3
+ 48510p 0.9
+ 50000p 0.9
+ 50010p -0.3
+ 50500p -0.3
+ 50510p 0.9
+ 52000p 0.9
+ 52010p -0.3
+ 52500p -0.3
+ 52510p 0.9
+ 54000p 0.9
+ 54010p -0.3
+ 54500p -0.3
+ 54510p 0.9
+ 56000p 0.9
+ 56010p -0.3
+ 56500p -0.3
+ 56510p 0.9
+ 58000p 0.9
+ 58010p -0.3
+ 58500p -0.3
+ 58510p 0.9
+ 60000p 0.9
+ 60010p -0.3
+ 60500p -0.3
+ 60510p 0.9
+ 62000p 0.9
+ 62010p -0.3
+ 62500p -0.3
+ 62510p 0.9
+ 64000p 0.9
+ 64010p -0.3
+ 64500p -0.3
+ 64510p 0.9
+ 66000p 0.9
+ 66010p -0.3
+ 66500p -0.3
+ 66510p 0.9
+ 68000p 0.9
+ 68010p -0.3
+ 68500p -0.3
+ 68510p 0.9
+ 70000p 0.9
+ 70010p -0.3
+ 70500p -0.3
+ 70510p 0.9
+ 72000p 0.9
+ 72010p -0.3
+ 72500p -0.3
+ 72510p 0.9
+ 74000p 0.9
+ 74010p -0.3
+ 74500p -0.3
+ 74510p 0.9
+ 76000p 0.9
+ 76010p -0.3
+ 76500p -0.3
+ 76510p 0.9
+ 78000p 0.9
+ 78010p -0.3
+ 78500p -0.3
+ 78510p 0.9
+ 80000p 0.9
+ 80010p -0.3
+ 80500p -0.3
+ 80510p 0.9
+ 82000p 0.9
+ 82010p -0.3
+ 82500p -0.3
+ 82510p 0.9
+ 84000p 0.9
+ 84010p -0.3
+ 84500p -0.3
+ 84510p 0.9
+ 86000p 0.9
+ 86010p -0.3
+ 86500p -0.3
+ 86510p 0.9
+ 88000p 0.9
+ 88010p -0.3
+ 88500p -0.3
+ 88510p 0.9
+ 90000p 0.9
+ 90010p -0.3
+ 90500p -0.3
+ 90510p 0.9
+ 92000p 0.9
+ 92010p -0.3
+ 92500p -0.3
+ 92510p 0.9
+ 94000p 0.9
+ 94010p -0.3
+ 94500p -0.3
+ 94510p 0.9
+ 96000p 0.9
+ 96010p -0.3
+ 96500p -0.3
+ 96510p 0.9
+ 98000p 0.9
+ 98010p -0.3
+ 98500p -0.3
+ 98510p 0.9
+ 100000p 0.9
+ 100010p -0.3
+ 100500p -0.3
+ 100510p 0.9
+ 102000p 0.9
+ 102010p -0.3
+ 102500p -0.3
+ 102510p 0.9
+ 104000p 0.9
+ 104010p -0.3
+ 104500p -0.3
+ 104510p 0.9
+ 106000p 0.9
+ 106010p -0.3
+ 106500p -0.3
+ 106510p 0.9
+ 108000p 0.9
+ 108010p -0.3
+ 108500p -0.3
+ 108510p 0.9
+ 110000p 0.9
+ 110010p -0.3
+ 110500p -0.3
+ 110510p 0.9
+ 112000p 0.9
+ 112010p -0.3
+ 112500p -0.3
+ 112510p 0.9
+ 114000p 0.9
+ 114010p -0.3
+ 114500p -0.3
+ 114510p 0.9
+ 116000p 0.9
+ 116010p -0.3
+ 116500p -0.3
+ 116510p 0.9
+ 118000p 0.9
+ 118010p -0.3
+ 118500p -0.3
+ 118510p 0.9
+ 120000p 0.9
+ 120010p -0.3
+ 120500p -0.3
+ 120510p 0.9
+ 122000p 0.9
+ 122010p -0.3
+ 122500p -0.3
+ 122510p 0.9
+ 124000p 0.9
+ 124010p -0.3
+ 124500p -0.3
+ 124510p 0.9
+ 126000p 0.9
+ 126010p -0.3
+ 126500p -0.3
+ 126510p 0.9
+ 128000p 0.9
+ 128010p -0.3
+ \]
V_RW_bar   (RW_bar gnd!)     vsource type=pwl wave=\[
+ 0    0.9
+ 500p 0.9
+ 510p -0.3
+ 2000p -0.3
+ 2010p 0.9
+ 2500p 0.9
+ 2510p -0.3
+ 4000p -0.3
+ 4010p 0.9
+ 4500p 0.9
+ 4510p -0.3
+ 6000p -0.3
+ 6010p 0.9
+ 6500p 0.9
+ 6510p -0.3
+ 8000p -0.3
+ 8010p 0.9
+ 8500p 0.9
+ 8510p -0.3
+ 10000p -0.3
+ 10010p 0.9
+ 10500p 0.9
+ 10510p -0.3
+ 12000p -0.3
+ 12010p 0.9
+ 12500p 0.9
+ 12510p -0.3
+ 14000p -0.3
+ 14010p 0.9
+ 14500p 0.9
+ 14510p -0.3
+ 16000p -0.3
+ 16010p 0.9
+ 16500p 0.9
+ 16510p -0.3
+ 18000p -0.3
+ 18010p 0.9
+ 18500p 0.9
+ 18510p -0.3
+ 20000p -0.3
+ 20010p 0.9
+ 20500p 0.9
+ 20510p -0.3
+ 22000p -0.3
+ 22010p 0.9
+ 22500p 0.9
+ 22510p -0.3
+ 24000p -0.3
+ 24010p 0.9
+ 24500p 0.9
+ 24510p -0.3
+ 26000p -0.3
+ 26010p 0.9
+ 26500p 0.9
+ 26510p -0.3
+ 28000p -0.3
+ 28010p 0.9
+ 28500p 0.9
+ 28510p -0.3
+ 30000p -0.3
+ 30010p 0.9
+ 30500p 0.9
+ 30510p -0.3
+ 32000p -0.3
+ 32010p 0.9
+ 32500p 0.9
+ 32510p -0.3
+ 34000p -0.3
+ 34010p 0.9
+ 34500p 0.9
+ 34510p -0.3
+ 36000p -0.3
+ 36010p 0.9
+ 36500p 0.9
+ 36510p -0.3
+ 38000p -0.3
+ 38010p 0.9
+ 38500p 0.9
+ 38510p -0.3
+ 40000p -0.3
+ 40010p 0.9
+ 40500p 0.9
+ 40510p -0.3
+ 42000p -0.3
+ 42010p 0.9
+ 42500p 0.9
+ 42510p -0.3
+ 44000p -0.3
+ 44010p 0.9
+ 44500p 0.9
+ 44510p -0.3
+ 46000p -0.3
+ 46010p 0.9
+ 46500p 0.9
+ 46510p -0.3
+ 48000p -0.3
+ 48010p 0.9
+ 48500p 0.9
+ 48510p -0.3
+ 50000p -0.3
+ 50010p 0.9
+ 50500p 0.9
+ 50510p -0.3
+ 52000p -0.3
+ 52010p 0.9
+ 52500p 0.9
+ 52510p -0.3
+ 54000p -0.3
+ 54010p 0.9
+ 54500p 0.9
+ 54510p -0.3
+ 56000p -0.3
+ 56010p 0.9
+ 56500p 0.9
+ 56510p -0.3
+ 58000p -0.3
+ 58010p 0.9
+ 58500p 0.9
+ 58510p -0.3
+ 60000p -0.3
+ 60010p 0.9
+ 60500p 0.9
+ 60510p -0.3
+ 62000p -0.3
+ 62010p 0.9
+ 62500p 0.9
+ 62510p -0.3
+ 64000p -0.3
+ 64010p 0.9
+ 64500p 0.9
+ 64510p -0.3
+ 66000p -0.3
+ 66010p 0.9
+ 66500p 0.9
+ 66510p -0.3
+ 68000p -0.3
+ 68010p 0.9
+ 68500p 0.9
+ 68510p -0.3
+ 70000p -0.3
+ 70010p 0.9
+ 70500p 0.9
+ 70510p -0.3
+ 72000p -0.3
+ 72010p 0.9
+ 72500p 0.9
+ 72510p -0.3
+ 74000p -0.3
+ 74010p 0.9
+ 74500p 0.9
+ 74510p -0.3
+ 76000p -0.3
+ 76010p 0.9
+ 76500p 0.9
+ 76510p -0.3
+ 78000p -0.3
+ 78010p 0.9
+ 78500p 0.9
+ 78510p -0.3
+ 80000p -0.3
+ 80010p 0.9
+ 80500p 0.9
+ 80510p -0.3
+ 82000p -0.3
+ 82010p 0.9
+ 82500p 0.9
+ 82510p -0.3
+ 84000p -0.3
+ 84010p 0.9
+ 84500p 0.9
+ 84510p -0.3
+ 86000p -0.3
+ 86010p 0.9
+ 86500p 0.9
+ 86510p -0.3
+ 88000p -0.3
+ 88010p 0.9
+ 88500p 0.9
+ 88510p -0.3
+ 90000p -0.3
+ 90010p 0.9
+ 90500p 0.9
+ 90510p -0.3
+ 92000p -0.3
+ 92010p 0.9
+ 92500p 0.9
+ 92510p -0.3
+ 94000p -0.3
+ 94010p 0.9
+ 94500p 0.9
+ 94510p -0.3
+ 96000p -0.3
+ 96010p 0.9
+ 96500p 0.9
+ 96510p -0.3
+ 98000p -0.3
+ 98010p 0.9
+ 98500p 0.9
+ 98510p -0.3
+ 100000p -0.3
+ 100010p 0.9
+ 100500p 0.9
+ 100510p -0.3
+ 102000p -0.3
+ 102010p 0.9
+ 102500p 0.9
+ 102510p -0.3
+ 104000p -0.3
+ 104010p 0.9
+ 104500p 0.9
+ 104510p -0.3
+ 106000p -0.3
+ 106010p 0.9
+ 106500p 0.9
+ 106510p -0.3
+ 108000p -0.3
+ 108010p 0.9
+ 108500p 0.9
+ 108510p -0.3
+ 110000p -0.3
+ 110010p 0.9
+ 110500p 0.9
+ 110510p -0.3
+ 112000p -0.3
+ 112010p 0.9
+ 112500p 0.9
+ 112510p -0.3
+ 114000p -0.3
+ 114010p 0.9
+ 114500p 0.9
+ 114510p -0.3
+ 116000p -0.3
+ 116010p 0.9
+ 116500p 0.9
+ 116510p -0.3
+ 118000p -0.3
+ 118010p 0.9
+ 118500p 0.9
+ 118510p -0.3
+ 120000p -0.3
+ 120010p 0.9
+ 120500p 0.9
+ 120510p -0.3
+ 122000p -0.3
+ 122010p 0.9
+ 122500p 0.9
+ 122510p -0.3
+ 124000p -0.3
+ 124010p 0.9
+ 124500p 0.9
+ 124510p -0.3
+ 126000p -0.3
+ 126010p 0.9
+ 126500p 0.9
+ 126510p -0.3
+ 128000p -0.3
+ 128010p 0.9
+ \]
V_clk   (clk gnd!)     vsource type=pwl wave=\[
+ 0    -0.3
+ 1400p -0.3
+ 1410p 0.9
+ 2000p 0.9
+ 2010p -0.3
+ 3400p -0.3
+ 3410p 0.9
+ 4000p 0.9
+ 4010p -0.3
+ 5400p -0.3
+ 5410p 0.9
+ 6000p 0.9
+ 6010p -0.3
+ 7400p -0.3
+ 7410p 0.9
+ 8000p 0.9
+ 8010p -0.3
+ 9400p -0.3
+ 9410p 0.9
+ 10000p 0.9
+ 10010p -0.3
+ 11400p -0.3
+ 11410p 0.9
+ 12000p 0.9
+ 12010p -0.3
+ 13400p -0.3
+ 13410p 0.9
+ 14000p 0.9
+ 14010p -0.3
+ 15400p -0.3
+ 15410p 0.9
+ 16000p 0.9
+ 16010p -0.3
+ 17400p -0.3
+ 17410p 0.9
+ 18000p 0.9
+ 18010p -0.3
+ 19400p -0.3
+ 19410p 0.9
+ 20000p 0.9
+ 20010p -0.3
+ 21400p -0.3
+ 21410p 0.9
+ 22000p 0.9
+ 22010p -0.3
+ 23400p -0.3
+ 23410p 0.9
+ 24000p 0.9
+ 24010p -0.3
+ 25400p -0.3
+ 25410p 0.9
+ 26000p 0.9
+ 26010p -0.3
+ 27400p -0.3
+ 27410p 0.9
+ 28000p 0.9
+ 28010p -0.3
+ 29400p -0.3
+ 29410p 0.9
+ 30000p 0.9
+ 30010p -0.3
+ 31400p -0.3
+ 31410p 0.9
+ 32000p 0.9
+ 32010p -0.3
+ 33400p -0.3
+ 33410p 0.9
+ 34000p 0.9
+ 34010p -0.3
+ 35400p -0.3
+ 35410p 0.9
+ 36000p 0.9
+ 36010p -0.3
+ 37400p -0.3
+ 37410p 0.9
+ 38000p 0.9
+ 38010p -0.3
+ 39400p -0.3
+ 39410p 0.9
+ 40000p 0.9
+ 40010p -0.3
+ 41400p -0.3
+ 41410p 0.9
+ 42000p 0.9
+ 42010p -0.3
+ 43400p -0.3
+ 43410p 0.9
+ 44000p 0.9
+ 44010p -0.3
+ 45400p -0.3
+ 45410p 0.9
+ 46000p 0.9
+ 46010p -0.3
+ 47400p -0.3
+ 47410p 0.9
+ 48000p 0.9
+ 48010p -0.3
+ 49400p -0.3
+ 49410p 0.9
+ 50000p 0.9
+ 50010p -0.3
+ 51400p -0.3
+ 51410p 0.9
+ 52000p 0.9
+ 52010p -0.3
+ 53400p -0.3
+ 53410p 0.9
+ 54000p 0.9
+ 54010p -0.3
+ 55400p -0.3
+ 55410p 0.9
+ 56000p 0.9
+ 56010p -0.3
+ 57400p -0.3
+ 57410p 0.9
+ 58000p 0.9
+ 58010p -0.3
+ 59400p -0.3
+ 59410p 0.9
+ 60000p 0.9
+ 60010p -0.3
+ 61400p -0.3
+ 61410p 0.9
+ 62000p 0.9
+ 62010p -0.3
+ 63400p -0.3
+ 63410p 0.9
+ 64000p 0.9
+ 64010p -0.3
+ 65400p -0.3
+ 65410p 0.9
+ 66000p 0.9
+ 66010p -0.3
+ 67400p -0.3
+ 67410p 0.9
+ 68000p 0.9
+ 68010p -0.3
+ 69400p -0.3
+ 69410p 0.9
+ 70000p 0.9
+ 70010p -0.3
+ 71400p -0.3
+ 71410p 0.9
+ 72000p 0.9
+ 72010p -0.3
+ 73400p -0.3
+ 73410p 0.9
+ 74000p 0.9
+ 74010p -0.3
+ 75400p -0.3
+ 75410p 0.9
+ 76000p 0.9
+ 76010p -0.3
+ 77400p -0.3
+ 77410p 0.9
+ 78000p 0.9
+ 78010p -0.3
+ 79400p -0.3
+ 79410p 0.9
+ 80000p 0.9
+ 80010p -0.3
+ 81400p -0.3
+ 81410p 0.9
+ 82000p 0.9
+ 82010p -0.3
+ 83400p -0.3
+ 83410p 0.9
+ 84000p 0.9
+ 84010p -0.3
+ 85400p -0.3
+ 85410p 0.9
+ 86000p 0.9
+ 86010p -0.3
+ 87400p -0.3
+ 87410p 0.9
+ 88000p 0.9
+ 88010p -0.3
+ 89400p -0.3
+ 89410p 0.9
+ 90000p 0.9
+ 90010p -0.3
+ 91400p -0.3
+ 91410p 0.9
+ 92000p 0.9
+ 92010p -0.3
+ 93400p -0.3
+ 93410p 0.9
+ 94000p 0.9
+ 94010p -0.3
+ 95400p -0.3
+ 95410p 0.9
+ 96000p 0.9
+ 96010p -0.3
+ 97400p -0.3
+ 97410p 0.9
+ 98000p 0.9
+ 98010p -0.3
+ 99400p -0.3
+ 99410p 0.9
+ 100000p 0.9
+ 100010p -0.3
+ 101400p -0.3
+ 101410p 0.9
+ 102000p 0.9
+ 102010p -0.3
+ 103400p -0.3
+ 103410p 0.9
+ 104000p 0.9
+ 104010p -0.3
+ 105400p -0.3
+ 105410p 0.9
+ 106000p 0.9
+ 106010p -0.3
+ 107400p -0.3
+ 107410p 0.9
+ 108000p 0.9
+ 108010p -0.3
+ 109400p -0.3
+ 109410p 0.9
+ 110000p 0.9
+ 110010p -0.3
+ 111400p -0.3
+ 111410p 0.9
+ 112000p 0.9
+ 112010p -0.3
+ 113400p -0.3
+ 113410p 0.9
+ 114000p 0.9
+ 114010p -0.3
+ 115400p -0.3
+ 115410p 0.9
+ 116000p 0.9
+ 116010p -0.3
+ 117400p -0.3
+ 117410p 0.9
+ 118000p 0.9
+ 118010p -0.3
+ 119400p -0.3
+ 119410p 0.9
+ 120000p 0.9
+ 120010p -0.3
+ 121400p -0.3
+ 121410p 0.9
+ 122000p 0.9
+ 122010p -0.3
+ 123400p -0.3
+ 123410p 0.9
+ 124000p 0.9
+ 124010p -0.3
+ 125400p -0.3
+ 125410p 0.9
+ 126000p 0.9
+ 126010p -0.3
+ 127400p -0.3
+ 127410p 0.9
+ 128000p 0.9
+ 128010p -0.3
+ \]
