Vdd    (vdd! gnd!)   vsource dc=0.9
V_read (V_Read gnd!) vsource dc=0.2
V_body (Vbody gnd!)  vsource dc=-0.3
V_ref  (Vref gnd!)   vsource dc=Vref
Vpp    (Vp gnd!)     vsource dc=0.9
Vnn    (Vn gnd!)     vsource dc=-0.3
Vhh    (Vh gnd!)     vsource dc=0.0
V_RW       (RW gnd!)         vsource dc=0.9
V_RW_bar   (RW_bar gnd!)     vsource dc=-0.3
V_clk      (clk gnd!)        vsource dc=-0.3
